US06506911B2
2-(1-Hydroxyethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one
The title compound was prepared by the method outlined for 2-hydroxymethyl-3-benzyloxy-6-methyl-pyran-4(1 )-one, using 8.5 g (50 mmol, 1 eq.) of 2(1-hydroxyethyl)-3-hydroxy-6-methyl-pyran-4(1H)-one and 9.5 g benzyl bromide (55 mmol, 1.1 eq.) to yield the pure product 10.1 g (77.7%) after recrystallisation from CH2Cl2/Pet. ether 40/60, as a white crystalline solid. m.p 91-92° C.

reactant | 2(1-hydroxyethyl)-3-hydroxy-6-methyl-pyran-4(1H)-one | 50 mmol, 8.5 g, 1 eq. | OC(C)C=1OC(=CC(C1O)=O)C | C8H10O4
reactant | benzyl bromide | 55 mmol, 9.5 g, 1.1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(1-Hydroxyethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | OC(C)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C15H16O4
